US08222245B2
1,1-Dimethylethyl [(3-bromo-2-hydroxyphenyl)methyl](2-hydroxyethyl)carbamate
2-Bromo-6-{[(2-hydroxyethyl)amino]methyl}phenol (Preparation 99) (2.3 g, 9.35 mmol) was dissolved in methanol (10 ml) and tetrahydrofuran (40 ml) and the resulting mixture was cooled at 0° C. Triethylamine (1.95 ml, 14.0 mmol), then bis(1,1-dimethylethyl) dicarbonate (2.39 ml, 10.3 mmol) were added and the resulting mixture stirred at this temperature for 2.5 h. Further triethylamine (195 ml, 1.40 mmol) and bis(1,1-dimethylethyl) dicarbonate (239 ml, 1.03 mmol) were added and the resulting mixture was allowed to warm to room temperature and left to stand over the weekend then concentrated in vacuo. The residue was dissolved in ethyl acetate and the organic phase was washed twice with a 2N hydrochloric acid then brine and dried (magnesium sulphate) and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel, eluting with 15-45% ethyl acetate in cyclohexane gave the title compound as a pale yellow oil (3.4 g). MS (ES) C14H2079BrNa4 requires 345 found 246 [M+H—COOC(CH3)3]+.

reactant | 2-Bromo-6-{[(2-hydroxyethyl)amino]methyl}phenol | 9.35 mmol, 2.3 g | BrC1=C(C(=CC=C1)CNCCO)O | C9H12BrNO2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | Triethylamine | 14.0 mmol, 1.95 ml | C(C)N(CC)CC | C6H15N
reactant | bis(1,1-dimethylethyl) dicarbonate | 10.3 mmol, 2.39 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.40 mmol, 195 ml | C(C)N(CC)CC | C6H15N
reactant | bis(1,1-dimethylethyl) dicarbonate | 1.03 mmol, 239 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 ml | CO | CH4O
product | 1,1-Dimethylethyl [(3-bromo-2-hydroxyphenyl)methyl](2-hydroxyethyl)carbamate | 3.4 g | BrC=1C(=C(C=CC1)CN(C(OC(C)(C)C)=O)CCO)O | C14H20BrNO4
